US04650804
To a solution of 5-hydroxy-2-methylpyridine (10.66 g) in tetrahydrofuran (426 ml) was added a solution of n-butyllithium (1.5M in hexane, 143 ml) at -30°~-10° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour at room temperature. After cooling to -78° C., cyclohexane (11.14 ml) was added dropwise and allowed to warm to 0° C. and stirred for 30 minutes at 0° C. After addition of acetic acid (24.6 ml), the solvent was distilled off and the residue was diluted with ethyl acetate, and washed successively with water, 10% aqueous sodium hydrogen carbonate and aqueous saturated sodium chloride. After drying over magnesium sulfate, the ethyl acetate extract was filtered and evaporated. The residue was washed with ethyl acetate to give 5-hydroxy-2-[(1-hydroxycyclohexyl)methyl]pyridine (11.96 g).

reactant | 5-hydroxy-2-methylpyridine | 10.66 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | n-butyllithium | 1.5M, 143 ml | C(CCC)[Li]
reactant | cyclohexane | 11.14 ml | C1CCCCC1 | C6H12
reactant | acetic acid | 24.6 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 426 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-2-[(1-hydroxycyclohexyl)methyl]pyridine | 11.96 g | OC=1C=CC(=NC1)CC1(CCCCC1)O | C12H17NO2
